US07371743B2
(a) 4-(morpholin-3-on-4-yl)-3-trifluoromethyl-benzoic acid
1.00 g (3.63 mmol) 4-(morpholin-4-yl)-3-trifluoromethyl-benzoic acid (prepared by synthesis sequence analogously to Example 13a and 13b) is suspended in 40 ml of water and 150 mg (3.75 mmol) sodium hydroxide are added. Then 1.73 g (10.92 mmol) potassium permanganate are added and the mixture is stirred for 1.5 hours at 45° C. Then the reaction mixture is cooled in the ice bath and sodium thiosulphate is added until total decolorisation is obtained. After extraction 3 times with ethyl acetate the combined organic phases are dried over sodium sulphate and evaporated down i. vac. After application of the residue to silica gel it is purified by chromatography on silica gel (eluant: dichloromethane/methanol 95:5).

reactant | 4-(morpholin-4-yl)-3-trifluoromethyl-benzoic acid | 3.63 mmol, 1.00 g | N1(CCOCC1)C1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C12H12F3NO3
reactant | sodium hydroxide | 3.75 mmol, 150 mg | [OH-].[Na+]
reactant | potassium permanganate | 10.92 mmol, 1.73 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | sodium thiosulphate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 40 ml | O | H2O
product | 4-(morpholin-3-on-4-yl)-3-trifluoromethyl-benzoic acid | N1(C(COCC1)=O)C1=C(C=C(C(=O)O)C=C1)C(F)(F)F | C12H10F3NO4
